US04117019
A solution of 70 parts of o-xylyl chloride and 200 parts of benzene is added in the course of 2 hours, whilst stirring thoroughly, to a mixture of 250 parts of 70 per cent strength by weight sulfuric acid and 72 parts of phosphorus pentoxide at from 75° to 77° C. After a further 4 hours at from 75° to 77° C, the organic phase is separated off and 80.9 parts (89.8% of theory) of o-benzyltoluene boiling at 98° C at 0.2 mm Hg are isolated by fractional distillation.

reactant | o-xylyl chloride | CC1=CC=CC=C1CCl | C8H9Cl
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | o-benzyltoluene | 89.8% | C(C1=CC=CC=C1)C1=C(C=CC=C1)C | C14H14
